US06897224B2
2-Acetyl(methyl)amino-5-aminoquinoline
650 mg (2.7 mmol) of 2-acetyl(methyl)amino-5-nitroquinoline and 161 mg of 10% Pd—C are stirred in 25 ml of ethyl acetate for 2 hours in a hydrogen atmosphere at room temperature. The batch is filtered and concentrated by evaporation: 490 mg of product.

reactant | 2-acetyl(methyl)amino-5-nitroquinoline | 2.7 mmol, 650 mg | C(C)(=O)C1=NC2=CC=CC(=C2C=C1NC)[N+](=O)[O-] | C12H11N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 161 mg | [Pd] | Pd
product | 2-Acetyl(methyl)amino-5-aminoquinoline | C(C)(=O)C1=NC2=CC=CC(=C2C=C1NC)N | C12H13N3O
